US07696240B2
3-Aminomethyl-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester; salt with hydrogen chloride was converted to 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid ethyl ester as described in Example 77.1. which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid as a colorless solid. MS: 431.3 ([M−H]−).

reactant | 3-Aminomethyl-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CN)CC=1C2=C(SC1)C=CC(=C2)F | C21H19FN2O2S
reactant | hydrogen chloride | Cl | ClH
reactant | 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CNS(=O)(=O)C)CC=1C2=C(SC1)C=CC(=C2)F | C22H21FN2O4S2
product | 1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-3-(methanesulfonylamino-methyl)-1H-indole-2-carboxylic acid | FC1=CC2=C(SC=C2CN2C(=C(C3=CC=CC=C23)CNS(=O)(=O)C)C(=O)O)C=C1 | C20H17FN2O4S2
